US04372953
1-Methyl-5-[3-(phthalimido)propylthio]-1,2,3,4-tetrazole (3.5 g) is dissolved in ethanol (50 ml). To the mixture is added hydrazine hydrate (85%, 2 g) and the mixture is refluxed for 1 hour. After cooling, the precipitate is filtered off and ethanol is distilled off. The residue is dissolved in ethyl acetate and dried over magnesium sulfate. Ethyl acetate is distilled off, and then the residue is purified by column chromatography (Alminium oxide 60, made by Merk & Co.), followed by eluting with chloroform to give 1-Methyl-5-(3-aminopropylthio)-1,2,3,4-tetrazole (1 g), colorless liquid, nD21.5 =1.5384.

reactant | 1-Methyl-5-[3-(phthalimido)propylthio]-1,2,3,4-tetrazole | 3.5 g | CN1N=NN=C1SCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H13N5O2S
reactant | hydrazine hydrate | 2 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Methyl-5-(3-aminopropylthio)-1,2,3,4-tetrazole | 1 g | CN1N=NN=C1SCCCN | C5H11N5S
